US09078444B2
To 5-[(E)-3-(3,5-Dichloro-phenyl)-4,4,4-trifluoro-but-2-enoyl]-2-[1,2,4]triazol-1-yl-benzonitrile (100 mg) was added thioacetic acid (6 eq.) and triethylamine (4 μL). To dissolve the suspension more thioacetic acid (400 μL) was added. The solution was stirred under argon at room temperature for 20 hours. To this mixture was added a minimum of dichloromethane and then isolute. The suspension was evaporated under vacuo. The residue was purified by chromatography on silica gel (eluent: cyclohexane/dichloromethane) to give 5-[3-(3,5-Dichloro-phenyl)-4,4,4-trifluoro-3-mercapto-butyryl]-2-[1,2,4]triazol-1-yl-benzonitrile (108 mg).

reactant | 5-[(E)-3-(3,5-Dichloro-phenyl)-4,4,4-trifluoro-but-2-enoyl]-2-[1,2,4]triazol-1-yl-benzonitrile | 100 mg | ClC=1C=C(C=C(C1)Cl)\C(=C/C(=O)C=1C=CC(=C(C#N)C1)N1N=CN=C1)\C(F)(F)F | C19H9Cl2F3N4O
reactant | thioacetic acid | 6 eq. | C(C)(=S)O | C2H4OS
reactant | triethylamine | 4 μL | C(C)N(CC)CC | C6H15N
reactant | thioacetic acid | 400 μL | C(C)(=S)O | C2H4OS
solvent | dichloromethane | ClCCl | CH2Cl2
product | 5-[3-(3,5-Dichloro-phenyl)-4,4,4-trifluoro-3-mercapto-butyryl]-2-[1,2,4]triazol-1-yl-benzonitrile | 108 mg | ClC=1C=C(C=C(C1)Cl)C(CC(=O)C=1C=CC(=C(C#N)C1)N1N=CN=C1)(C(F)(F)F)S | C19H11Cl2F3N4OS
